US06207686B1
To a solution of ethyl (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionate (4.2 g) in ethanol (50 ml) was added 1M sodium hydroxide solution (26.2 ml) at room temperature. After being stirred for 1.5 hours at the same temperature, the mixture was concentrated in vacuo. The residue was dissolved in 1N hydrochloric acid (50 ml) and ethyl acetate (100 ml) and the organic layer was washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was crystallized from n-hexane to give (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid (1.43 g).

reactant | ethyl (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionate | 4.2 g | C1OC=2C=C(C=CC2O1)C(C(=O)OCC)C(O)C1CCCCC1 | C18H24O5
reactant | sodium hydroxide | 1M, 26.2 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (2RS,3RS)-2-(3,4-methylenedioxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid | 1.43 g | C1OC=2C=C(C=CC2O1)C(C(=O)O)C(O)C1CCCCC1 | C16H20O5
